US09403816B2
6-Bromo-2,4-dichloro-8-methyl-3-phenylquinoline
A mixture of 2-phenylmalonic acid (7.62 g, 42.3 mmol) and POCl3 (32.8 mL, 352 mmol) was stirred at reflux (130° C.) for 10 minutes, and the resulting homogeneous yellow solution was cooled in an ice bath. 4-Bromo-2-methylaniline (6.56 g, 35.2 mmol) was added in one portion and the mixture was refluxed for 2 hours. The dark solution was allowed to cool to room temperature and was diluted with DCM (70 mL) and ice (100 mL), and stirred at room temperature for ˜5-10 minutes at which point exothermic POCl3 hydrolysis commenced (ice bath cooling), and was then stirred at room temperature for another 30 minutes. The light yellow aqueous layer was extracted with DCM (1×30 mL), and the combined dark homogeneous organic layers were dried (Na2SO4), filtered, and concentrated with silica gel. The silica-adsorbed residue was dry load flash chromatographed with a 20% DCM/heptane to 100% DCM gradient to provide the title compound as an off-white solid.

reactant | 2-phenylmalonic acid | 42.3 mmol, 7.62 g | C1(=CC=CC=C1)C(C(=O)O)C(=O)O | C9H8O4
reactant | POCl3 | 352 mmol, 32.8 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 4-Bromo-2-methylaniline | 35.2 mmol, 6.56 g | BrC1=CC(=C(N)C=C1)C | C7H8BrN
reactant | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | 6-Bromo-2,4-dichloro-8-methyl-3-phenylquinoline | BrC=1C=C2C(=C(C(=NC2=C(C1)C)Cl)C1=CC=CC=C1)Cl | C16H10BrCl2N
